US07420001B2
To 4-hydroxy-3-methyl-benzofuran-2-carboxylic acid tert-butyl ester (300 mg, 1.21 mmol) was added iodomethane (0.75 mL, 10 eq), K2CO3 (332 mg, 2.4 mmol) and 2 mL of DMF. The mixture was stirred at room temperature overnight. The mixture was washed with brine and extracted with ethyl acetate. The combined ethyl acetate solution was washed with brine. Removal of the solvent gave 312 mg (98% yield) of 4-methoxy-3-methyl-benzofuran-2-carboxylic acid tert-butyl ester as an amber colored oil.

reactant | 4-hydroxy-3-methyl-benzofuran-2-carboxylic acid tert-butyl ester | 1.21 mmol, 300 mg | C(C)(C)(C)OC(=O)C=1OC2=C(C1C)C(=CC=C2)O | C14H16O4
reactant | iodomethane | 0.75 mL, 10 eq | IC | CH3I
reactant | K2CO3 | 2.4 mmol, 332 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 4-methoxy-3-methyl-benzofuran-2-carboxylic acid tert-butyl ester | 312 mg, 98% yield | C(C)(C)(C)OC(=O)C=1OC2=C(C1C)C(=CC=C2)OC | C15H18O4
